US04748240
3-[4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl]-9-thia-3-azabicyclo[3.3.1]nonane-2,4-dione
Tetrahydrothiopyran-2,6-dicarboxylic anhydride (2.4 g., 14 mmole) and 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine (3.5 g., 15 mmole) were dissolved in 250 ml. of toluene and refluxed for 48 hours with water removal via a Dean-Shark trap. The solvent was removed in vacuum and replaced with chloroform. The mixture was filtered through 75 g. of silica gel and concentrated in vacuum and the residue was crystallized from isopropanol with addition of 4N isopropanolic HCl. A second crystallization from isopropanol gave 1. g. of the title compound as the monohydrochloride; m.p. 238°-241° C. (d).

reactant | Tetrahydrothiopyran-2,6-dicarboxylic anhydride | 14 mmole, 2.4 g | S1C2CCCC1C(=O)OC2=O | C7H8O3S
reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine | 15 mmole, 3.5 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-[4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl]-9-thia-3-azabicyclo[3.3.1]nonane-2,4-dione | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(C2CCCC(C1=O)S2)=O | C19H27N5O2S
